US09351940B2
For this purpose, 50 mL of GANTREZ® ES 425 ethanolic solution (50 mg/mL) were mixed with 100 mL of distilled water to form GANTREZ® ES nanoparticles. Different surfactants were added to the nanoparticles hydroalcoholic suspension such as sodium dodecyl sulfate (SDS) (100 mg), PLURONIC® F68 [ethylene oxide/propylene oxide block copolymer] (100 mg) or TWEEN® 80 [polyoxyethylene (20) sorbitan monooleate] (7.5 mg). Finally, 7.5 g of mannitol were added as excipient. To obtain a dry powder of the GANTREZ® ES nanoparticles, the suspension was dried in a Mini Spray-dryer Büchi B191 (Büchi Labortechnik AG, Switzerland) under the following conditions:

reactant | sodium dodecyl sulfate | 100 mg | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | mannitol | 7.5 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
product | GANTREZ | COC=C.C1=CC(=O)OC1=O | InChI=1S/C4H2O3.C3H6O/c5-3-1-2-4(6)7-3;1-3-4-2/h1-2H;3H,1H2,2H3
